US07432291B2
v) 3-(4-Difluoromethoxy-phenyl)-acrylamide
To a suspension of 8.70 g (40.6 mmol) 3-(4-difluoromethoxy-phenyl)-acrylic acid in 60.0 ml tetrahydrofuran and 0.6 ml N,N-dimethylformamide a solution of 5.14 ml (60.9 mmol) oxalyl chloride in 10 ml tetrahydrofuran was added dropwise at 0° C. within 10 min. Stirring was continued at 0-5° C. for 30 min. and 2 h at room temperature thereafter. The resulting solution was cooled to 0-5° C. again and then added within 15 min. to 150 ml of a 25% aqueous ammonia solution. The separating oil was collected and stirred for 30 min. with water. The precipitated amide was collected, washed with water and dried at 40° C. in vacuo. 4.7 g (54%) 3-(4-Difluoromethoxy-phenyl)-acrylamide.

reactant | 3-(4-difluoromethoxy-phenyl)-acrylic acid | 40.6 mmol, 8.70 g | FC(OC1=CC=C(C=C1)C=CC(=O)O)F | C10H8F2O3
reactant | oxalyl chloride | 60.9 mmol, 5.14 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 60.0 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 0.6 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(4-Difluoromethoxy-phenyl)-acrylamide | FC(OC1=CC=C(C=C1)C=CC(=O)N)F | C10H9F2NO2
